US05808062
4-[[4-[4-hydroxy-2-oxo-3-[(2-phenylethyl)thio]-2H-pyran-6-yl]phenoxy]methyl]benzoic acid methyl ester:
The title compound was prepared by Method A using 4-[[(4-acetyl)phenoxy]methyl]benzoic acid methyl ester (2.0 g, 7.04 mmol), lithium hexamethyldisilazide (2.36 g, 14.08 mmol), chlorotrimethylsilane (2.38 g, 14.08 mmol) and diethyl ester of [(2-phenylethyl)thio]propanedioic acid (1.0 g, 3.05 mmol). m.p. 157°-158° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.78 (t, 2 H), 2.97 (t, 2 H), 3.86 (s, 2 H), 5.31 (s, 2 H), 6.67 (s, 1 H), 7.17 (q, 4 H), 7.25 (m, 3 H), 7.61 (d, 2 H), 7.78 (d, 2 H), 8.0 (d, 2 H); IR (KBr) 3023, 2936, 2581, 1632, 1510, 1404, 1258, 1184, 1098, 1009, 818, 718 cm-1 ; MS (CI) m/e 517 (M+29, 7), 489 (M+H, 55), 384 (19), 149 (40), 105 (100).

reactant | 4-[[(4-acetyl)phenoxy]methyl]benzoic acid methyl ester | 7.04 mmol, 2.0 g | COC(C1=CC=C(C=C1)COC1=CC=C(C=C1)C(C)=O)=O | C17H16O4
reactant | lithium hexamethyldisilazide | 14.08 mmol, 2.36 g | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 14.08 mmol, 2.38 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(2-phenylethyl)thio]propanedioic acid | 3.05 mmol, 1.0 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
reactant | KBr | [K+].[Br-]
product | 4-[[4-[4-hydroxy-2-oxo-3-[(2-phenylethyl)thio]-2H-pyran-6-yl]phenoxy]methyl]benzoic acid methyl ester | COC(C1=CC=C(C=C1)COC1=CC=C(C=C1)C1=CC(=C(C(O1)=O)SCCC1=CC=CC=C1)O)=O | C28H24O6S
